US03966938
cis-8,9-Dimethoxy-2-methyl-6-(4-pivaloylaminophenyl)-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine
2 g of 6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine, 10 ml of pyridine and 6 ml of pivalic acid anhydride are heated at 60° for 2 hours. The reaction mixture is then treated with 10 ml of water and evaporated to dryness under vacuum. The resulting oily residue is dissolved in ethanol and treated with a small excess of ethanolic hydrochloric acid, whereby the dihydrochloride of the title compound crystallizes out in yellowish prisms of M.P. 245°.

reactant | 6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | 2 g | NC1=CC=C(C=C1)C1=NC2CCN(CC2C2=C1C=C(C(=C2)OC)OC)C | C21H25N3O2
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | pivalic acid anhydride | 6 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
solvent | water | 10 ml | O | H2O
product | cis-8,9-Dimethoxy-2-methyl-6-(4-pivaloylaminophenyl)-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=C(C=C2)NC(C(C)(C)C)=O)C1)OC | C26H33N3O3
